US07795262B2
Step 1. Preparation of 6-benzyl-5,6,7,8-tetrahydro-[1,6]naphthyridine
To a solution 1,6-naphthyridine (2.09 g, 16.05 mmol) in acetonitrile (50.0 ml) is added benzylbromide (3.30 g, 19.27 mmol, 1.2 eq.) and NaI (50.0 mg). The resulting mixture is refluxed under nitrogen overnight. Acetonitrile is evaporated, and the residue is washed with ether (20 ml), and dried in vacuo to give the quaternary salt, which is dissolved in a mixture of MeOH (90 ml) and water (30 ml). To the solution at 0° C. is added sodium borohydride (2.28 g, 96.5 mmol, about 6.0 eq.). The resulting mixture is warmed to rt, and stirred overnight. The organic solvent is evaporated, and the residue is taken up in water (50 ml), extracted with EtOAc (50 ml×3). The combined organic phase is washed with brine, dried over sodium sulfate, and concentrated. The crude product is purified by silica gel chromatography (Hexane/EtOAc 1:1 plus 4% TEA) to give the title compound. MS (+VE) m/z 225.1 (M++1).

reactant | 1,6-naphthyridine | 16.05 mmol, 2.09 g | N1=CC=CC2=CN=CC=C12 | C8H6N2
reactant | benzylbromide | 19.27 mmol, 3.30 g, 1.2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaI | 50.0 mg | [Na+].[I-]
reactant | sodium borohydride | 96.5 mmol, 2.28 g, about 6.0 eq. | [BH4-].[Na+]
solvent | acetonitrile | 50.0 ml | C(C)#N | C2H3N
solvent | MeOH | 90 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 6-benzyl-5,6,7,8-tetrahydro-[1,6]naphthyridine | C(C1=CC=CC=C1)N1CC=2C=CC=NC2CC1 | C15H16N2
